US06603044B1
(3-1) Production of 3-Iodo-N-(1-methyl-3-methylthiopropyl)-phthalamic Acid
To a suspension of 2.74 g of 3-iodophthalic anhydride in 8 ml of acetonitrile cooled with ice was slowly added dropwise a solution of 1.19 g of 1-methyl-3-methylthiopropylamine in 3 ml of acetonitrile. After completion of the dropping, a reaction was carried out at room temperature for 3 hours with stirring. After completion of the reaction, the deposited crystal was collected by filtration and washed with a small quantity of acetonitrile. Thus, 3.5 g of the objective compound was obtained.

reactant | 3-iodophthalic anhydride | 2.74 g | IC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3IO3
reactant | 1-methyl-3-methylthiopropylamine | 1.19 g | CC(CCSC)N | C5H13NS
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 3-Iodo-N-(1-methyl-3-methylthiopropyl)-phthalamic Acid | 3.5 g, Yield: 89% | IC1=C(C(C(=O)O)=CC=C1)C(=O)NC(CCSC)C | C13H16INO3S
